US06797708B2
104.0 mg of 4-{2-[1-Benzhydryl-5-chloro-2-(3-hydroxy-propyl)-1H-indol-3-yl]-ethoxy}-benzoic acid methyl ester (0.0002M, 1.0 eq.) was dissolved in 2.0 mL of anhydrous methylene chloride. To the solution 116.0 mg of polystyrene bound triphenylphosphine was added (1.61 mmol/g, 0.0002M, 1.0 eq.) followed by 125.0 mg of carbon tetrabromide (0.0004M, 2 eq.). The suspension was stirred for 2 hrs at room temperature at which point the reaction was filtered and the filtrate evaporated to an orange oil. The oil was purified via column chromatography with ethyl acetate/hexanes (2:98) to give 100 mg (86%) of 4-{2-[1-Benzhydryl-2-(3-bromo-propyl)-5-chloro-1H-indol-3-yl]-ethoxy}-benzoic acid methyl ester title as a yellow foam.

reactant | 4-{2-[1-Benzhydryl-5-chloro-2-(3-hydroxy-propyl)-1H-indol-3-yl]-ethoxy}-benzoic acid methyl ester | 0.0002M, 104.0 mg, 1.0 eq. | COC(C1=CC=C(C=C1)OCCC1=C(N(C2=CC=C(C=C12)Cl)C(C1=CC=CC=C1)C1=CC=CC=C1)CCCO)=O | C34H32ClNO4
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 0.0004M, 125.0 mg, 2 eq. | C(Br)(Br)(Br)Br | CBr4
solvent | methylene chloride | 2.0 mL | C(Cl)Cl | CH2Cl2
product | 4-{2-[1-Benzhydryl-2-(3-bromo-propyl)-5-chloro-1H-indol-3-yl]-ethoxy}-benzoic acid methyl ester | 100 mg, 86% | COC(C1=CC=C(C=C1)OCCC1=C(N(C2=CC=C(C=C12)Cl)C(C1=CC=CC=C1)C1=CC=CC=C1)CCCBr)=O | C34H31BrClNO3
